US07985753B2
8-Methyl-2,3,5,6,7,8-hexahydro-1,4-dioxa-7-aza-phenanthrene
1 mmol of either isomer of bromo-1,2,3,4-tetrahydro-isoquinoline, 2 eq. of corresponding boronic acid, and 12,5 mol % of Pd(PPh3)4 are placed in a microwave reactor vial (Personal Chemistry). 3 ml of THF and 2 eq of K2CO3 in 1 ml H2O are added via syringe and the vial is purged with argon. The vial is heated by microwaves at 120° C. for 40 minutes. After cooling the mixture is partitioned between CH2Cl2 and water (30 mL each). The organic layer is washed with water, brine, dried over anhydrous Na2SO4, filtered and evaporated at reduced pressure. The residue is dissolved in diethyl ether (2 mL) and treated with excess of ethereal solution of hydrogen chloride. The precipitate is collected by filtration, washed and dried to give sufficiently pure title compound as a hydrochloride salt.

reactant | bromo-1,2,3,4-tetrahydro-isoquinoline | BrC1NCCC2=CC=CC=C12 | C9H10BrN
reactant | boronic acid | 2 eq. | B(O)O | BH3O2
reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | K2CO3 | 2 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 1 ml | O | H2O
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-Methyl-2,3,5,6,7,8-hexahydro-1,4-dioxa-7-aza-phenanthrene | CC1NCCC2=C3OCCOC3=CC=C12 | C12H15NO2
